US07825253B2
Synthesis of 3-(2-methoxy-ethoxymethyl)-benzylamine
3-(2-Methoxy-ethoxymethyl)-benzonitrile (2.58 g, 13.5 mmol) was dissolved in 50 mL tetrahydrofuran. Lithiumaluminium hydride (660 mg, 17.5 mmol) was added portionwise at 0° C. The reaction mixture was stirred at room temperature overnight and quenched by sequential addition of 0.66 mL water, 0.66 mL 15% sodium hydroxide solution and 1.98 mL water. The solid was filtered off and the filtrate was evaporated. The title compound was obtained as a yellow liquid (2.63 g, 97%), MS: m/e=196.3 (M+H+).

reactant | 3-(2-Methoxy-ethoxymethyl)-benzonitrile | 13.5 mmol, 2.58 g | COCCOCC=1C=C(C#N)C=CC1 | C11H13NO2
reactant | Lithiumaluminium hydride | 17.5 mmol, 660 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 3-(2-methoxy-ethoxymethyl)-benzylamine | COCCOCC=1C=C(CN)C=CC1 | C11H17NO2
